US07820699B2
38.2 A solution of 440 mg (3S,4S)-3-azido-4-(toluene-4-sulfonyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester in 8.6 ml 1M tetrabutylammonium fluoride solution in THF was stirred overnight at r.t. The reaction mixture was concentrated. The crude product was isolated by column chromatography (silica gel, gradient: cyclohexane->cyclohexane/EtOAc 1:1) to give 150 mg (3S,4R)-3-azido-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester as colorless liquid. MS 230 ([M])

reactant | (3S,4S)-3-azido-4-(toluene-4-sulfonyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 440 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)N=[N+]=[N-] | C16H22N4O5S
reactant | tetrabutylammonium fluoride | 1M, 8.6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | (3S,4R)-3-azido-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](C1)F)N=[N+]=[N-] | C9H15FN4O2
